US07253192B2
A] [2-Methyl-4-(3-phenyl-prop-2-ynylsulfanyl)-phenoxy]-acetic acid tert-butyl ester
In analogy to the procedure described in example 5B], (2-methyl-4-prop-2-ynylsulfanyl-phenoxy)-acetic acid tert-butyl ester (example 5A]) and iodo-benzene gave the title compound as a colorless oil.

reactant | (2-methyl-4-prop-2-ynylsulfanyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCC#C)C)=O | C16H20O3S
reactant | iodo-benzene | IC1=CC=CC=C1 | C6H5I
product | [2-Methyl-4-(3-phenyl-prop-2-ynylsulfanyl)-phenoxy]-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCC#CC1=CC=CC=C1)C)=O | C22H24O3S
